* ISCAS85 benchmark circuit SPICE netlist
* generated by spicegen.pl 1.0 
* by Jingye Xu @ VLSI group, Dept of ECE, UIC

.INCLUDE ../../technology/45nm_HP.pm
.OPTIONS GMIN=1e-015 ABSTOL=1e-13 ACCT

* the voltage souces: 
Vdd vdd gnd DC 1.8

* the input voltage sources
V1 g35 gnd pulse(0 1 0p 200p 200p 1n 2n)
V2 g21 gnd pulse(0 1 0p 200p 200p 1n 2n)
V3 g18 gnd pulse(0 1 0p 200p 200p 1n 2n)
V4 g23 gnd pulse(0 1 0p 200p 200p 1n 2n)
V5 g13 gnd pulse(0 1 0p 200p 200p 1n 2n)
V6 g2 gnd pulse(0 1 0p 200p 200p 1n 2n)
V7 g31 gnd pulse(0 1 0p 200p 200p 1n 2n)
V8 g9 gnd pulse(0 1 0p 200p 200p 1n 2n)
V9 g17 gnd pulse(0 1 0p 200p 200p 1n 2n)
V10 g27 gnd pulse(0 1 0p 200p 200p 1n 2n)
V11 g14 gnd pulse(0 1 0p 200p 200p 1n 2n)
V12 g36 gnd pulse(0 1 0p 200p 200p 1n 2n)
V13 g19 gnd pulse(0 1 0p 200p 200p 1n 2n)
V14 g8 gnd pulse(0 1 0p 200p 200p 1n 2n)
V15 g3 gnd pulse(0 1 0p 200p 200p 1n 2n)
V16 g26 gnd pulse(0 1 0p 200p 200p 1n 2n)
V17 g16 gnd pulse(0 1 0p 200p 200p 1n 2n)
V18 g11 gnd pulse(0 1 0p 200p 200p 1n 2n)
V19 g22 gnd pulse(0 1 0p 200p 200p 1n 2n)
V20 g32 gnd pulse(0 1 0p 200p 200p 1n 2n)
V21 g30 gnd pulse(0 1 0p 200p 200p 1n 2n)
V22 g10 gnd pulse(0 1 0p 200p 200p 1n 2n)
V23 g6 gnd pulse(0 1 0p 200p 200p 1n 2n)
V24 g1 gnd pulse(0 1 0p 200p 200p 1n 2n)
V25 g28 gnd pulse(0 1 0p 200p 200p 1n 2n)
V26 g25 gnd pulse(0 1 0p 200p 200p 1n 2n)
V27 g4 gnd pulse(0 1 0p 200p 200p 1n 2n)
V28 g15 gnd pulse(0 1 0p 200p 200p 1n 2n)
V29 g12 gnd pulse(0 1 0p 200p 200p 1n 2n)
V30 g29 gnd pulse(0 1 0p 200p 200p 1n 2n)
V31 g33 gnd pulse(0 1 0p 200p 200p 1n 2n)
V32 g7 gnd pulse(0 1 0p 200p 200p 1n 2n)
V33 g24 gnd pulse(0 1 0p 200p 200p 1n 2n)
V34 g34 gnd pulse(0 1 0p 200p 200p 1n 2n)
V35 g20 gnd pulse(0 1 0p 200p 200p 1n 2n)
V36 g5 gnd pulse(0 1 0p 200p 200p 1n 2n)

X101 x246 y246 vdd gnd g246 nand2
X261 g378 g418 g421 g425 vdd gnd g432 nand4
X194 g308 g281 vdd gnd g339 xor2
X215 g333 g303 vdd gnd g350 nand2
X35 g17 g131 vdd gnd g188 nor2
X2 g2 vdd gnd g119 not1
X96 g203 g177 vdd gnd g246 xor2
X70 g203 g165 vdd gnd g232 xor2
X254 g383 g390 g404 g417 vdd gnd g425 nand4
X234 g2 g241 g332 g368 vdd gnd g377 nand4
X130 g242 g194 vdd gnd g292 nand2
X144 g293 vdd gnd g306 not1
X159 x329 y329 vdd gnd g329 nand2
X120 g235 g189 vdd gnd g272 nand2
X31 g9 g123 vdd gnd g184 nor2
X189 g278 vdd gnd z337 not1
X202 g308 vdd gnd w341 not1
X170 g269 w331 vdd gnd y331 nand2
X1 g1 vdd gnd g118 not1
X61 g203 z226 vdd gnd x226 nand2
X105 g180 vdd gnd z250 not1
X229 g358 g21 vdd gnd g372 nand2
X206 x341 y341 vdd gnd g341 nand2
X186 g318 g11 vdd gnd g336 nand2
X89 g203 g174 vdd gnd g242 xor2
X163 g308 z330 vdd gnd x330 nand2
X246 x41 x42 vdd gnd g413 and2
X117 g226 g183 vdd gnd g263 nand2
X67 g203 z229 vdd gnd x229 nand2
X223 x31 x32 x33 vdd gnd g355 and3
X129 g238 g192 vdd gnd g291 nand2
X218 g339 g306 vdd gnd g353 nand2
X46 g154 g159 g162 vdd gnd x11 and3
X228 g358 g17 vdd gnd g371 nand2
X15 g28 vdd gnd g146 not1
X58 g203 g159 vdd gnd g226 xor2
X76 g203 g168 vdd gnd g235 xor2
X113 g213 g28 vdd gnd g257 nand2
X125 g226 g184 vdd gnd g287 nand2
X23 g126 g10 vdd gnd g162 nand2
X5 g8 vdd gnd g126 not1
X40 g27 g143 vdd gnd g193 nor2
X82 g203 g171 vdd gnd g238 xor2
X259 g378 g383 g418 g396 vdd gnd g430 nand4
X260 g378 g383 g421 g424 vdd gnd g431 nand4
X165 x330 y330 vdd gnd g330 nand2
X214 g331 g302 vdd gnd g349 nand2
X79 g203 z235 vdd gnd x235 nand2
X155 g308 vdd gnd w329 not1
X42 g31 g147 vdd gnd g195 nor2
X182 g275 vdd gnd z335 not1
X243 g377 vdd gnd g412 not1
X133 g259 g263 g266 vdd gnd x21 and3
X91 g174 vdd gnd z242 not1
X258 g412 g413 vdd gnd g429 nor2
X139 g288 vdd gnd g301 not1
X237 g253 g338 g371 g14 vdd gnd g390 nand4
X174 g308 vdd gnd w333 not1
X115 g223 g157 vdd gnd g259 nand2
X10 g18 vdd gnd g135 not1
X257 g355 vdd gnd g428 not1
X181 g308 vdd gnd w335 not1
X34 g15 g131 vdd gnd g187 nor2
X77 g203 vdd gnd w235 not1
X185 x335 y335 vdd gnd g335 nand2
X44 g35 g151 vdd gnd g197 nor2
X249 g404 vdd gnd g416 not1
X86 g171 w238 vdd gnd y238 nand2
X14 g26 vdd gnd g143 not1
X33 g13 g127 vdd gnd g186 nor2
X128 g235 g190 vdd gnd g290 nand2
X73 g203 z232 vdd gnd x232 nand2
X30 g7 g123 vdd gnd g183 nor2
X248 g401 vdd gnd g415 not1
X166 g308 g269 vdd gnd g331 xor2
X94 x242 y242 vdd gnd g242 nand2
X62 g159 w226 vdd gnd y226 nand2
X121 g238 g191 vdd gnd g275 nand2
X57 x223 y223 vdd gnd g223 nand2
X224 g355 vdd gnd g358 not1
X168 g269 vdd gnd z331 not1
X142 g291 vdd gnd g304 not1
X136 x21 x22 x23 vdd gnd g295 and3
X106 g203 z250 vdd gnd x250 nand2
X66 g162 vdd gnd z229 not1
X118 g229 g185 vdd gnd g266 nand2
X149 g308 vdd gnd w328 not1
X90 g203 vdd gnd w242 not1
X236 g249 g336 g370 g10 vdd gnd g383 nand4
X233 g358 g36 vdd gnd g376 nand2
X251 g383 g414 vdd gnd g418 nand2
X95 g213 g4 vdd gnd g245 nand2
X83 g203 vdd gnd w238 not1
X47 g165 g168 g171 vdd gnd x12 and3
X179 g318 g7 vdd gnd g334 nand2
X197 g308 z339 vdd gnd x339 nand2
X153 x328 y328 vdd gnd g328 nand2
X22 g122 g6 vdd gnd g159 nand2
X81 x235 y235 vdd gnd g235 nand2
X147 g295 vdd gnd g318 not1
X43 g33 g147 vdd gnd g196 nor2
X143 g292 vdd gnd g305 not1
X193 g318 g15 vdd gnd g338 nand2
X242 g258 g345 g376 g34 vdd gnd g411 nand4
X78 g168 vdd gnd z235 not1
X111 g213 g20 vdd gnd g255 nand2
X28 g146 g30 vdd gnd g177 nand2
X56 g154 w223 vdd gnd y223 nand2
X152 g259 w328 vdd gnd y328 nand2
X50 g199 vdd gnd g203 not1
X20 g3 g119 vdd gnd g157 nor2
X205 g284 w341 vdd gnd y341 nand2
X209 g318 g31 vdd gnd g344 nand2
X173 g308 g272 vdd gnd g333 xor2
X100 g177 w246 vdd gnd y246 nand2
X52 g203 g154 vdd gnd g223 xor2
X201 g308 g284 vdd gnd g341 xor2
X245 g401 g404 g408 g411 vdd gnd x42 and4
X138 g287 vdd gnd g300 not1
X27 g142 g26 vdd gnd g174 nand2
X114 g213 g32 vdd gnd g258 nand2
X122 g242 g193 vdd gnd g278 nand2
X102 g213 g8 vdd gnd g249 nand2
X4 g6 vdd gnd g123 not1
X162 g266 vdd gnd z330 not1
X219 g341 g307 vdd gnd g354 nand2
X230 g358 g25 vdd gnd g373 nand2
X213 g330 g301 vdd gnd g348 nand2
X87 x238 y238 vdd gnd g238 nand2
X108 x250 y250 vdd gnd g250 nand2
X200 g318 g19 vdd gnd g340 nand2
X184 g275 w335 vdd gnd y335 nand2
X156 g263 vdd gnd z329 not1
X132 g250 g198 vdd gnd g294 nand2
X135 g278 g281 g284 vdd gnd x23 and3
X63 x226 y226 vdd gnd g226 nand2
X167 g308 vdd gnd w331 not1
X180 g308 g275 vdd gnd g335 xor2
X141 g290 vdd gnd g303 not1
X41 g29 g143 vdd gnd g194 nor2
X103 g203 g180 vdd gnd g250 xor2
X239 g255 g342 g373 g22 vdd gnd g401 nand4
X13 g24 vdd gnd g142 not1
X145 g294 vdd gnd g307 not1
X16 g30 vdd gnd g147 not1
X37 g21 g135 vdd gnd g190 nor2
X252 g383 g390 g415 g396 vdd gnd g421 nand4
X240 g256 g343 g374 g26 vdd gnd g404 nand4
X107 g180 w250 vdd gnd y250 nand2
X65 g203 vdd gnd w229 not1
X164 g266 w330 vdd gnd y330 nand2
X60 g159 vdd gnd z226 not1
X247 g390 vdd gnd g414 not1
X72 g165 vdd gnd z232 not1
X127 g232 g188 vdd gnd g289 nand2
X49 x11 x12 x13 vdd gnd g199 and3
X241 g257 g344 g375 g30 vdd gnd g408 nand4
X39 g25 g139 vdd gnd g192 nor2
X112 g213 g24 vdd gnd g256 nand2
X116 g223 g158 vdd gnd g262 nand2
X225 g5 g358 vdd gnd g368 nand2
X137 g262 vdd gnd g299 not1
X172 g3 g318 vdd gnd g332 nand2
X93 g174 w242 vdd gnd y242 nand2
X29 g150 g34 vdd gnd g180 nand2
X146 g295 vdd gnd g308 not1
X9 g16 vdd gnd g134 not1
X25 g134 g18 vdd gnd g168 nand2
X55 g203 z223 vdd gnd x223 nand2
X157 g308 z329 vdd gnd x329 nand2
X84 g171 vdd gnd z238 not1
X19 g118 g2 vdd gnd g154 nand2
X74 g165 w232 vdd gnd y232 nand2
X161 g308 vdd gnd w330 not1
X51 g199 vdd gnd g213 not1
X160 g308 g266 vdd gnd g330 xor2
X190 g308 z337 vdd gnd x337 nand2
X69 x229 y229 vdd gnd g229 nand2
X208 g318 g27 vdd gnd g343 nand2
X154 g308 g263 vdd gnd g329 xor2
X7 g12 vdd gnd g130 not1
X210 g318 g35 vdd gnd g345 nand2
X256 g295 vdd gnd g427 not1
X216 g335 g304 vdd gnd g351 nand2
X177 g272 w333 vdd gnd y333 nand2
X98 g177 vdd gnd z246 not1
X176 g308 z333 vdd gnd x333 nand2
X204 g308 z341 vdd gnd x341 nand2
X221 g349 g350 g351 vdd gnd x32 and3
X232 g358 g33 vdd gnd g375 nand2
X196 g281 vdd gnd z339 not1
X26 g138 g22 vdd gnd g171 nand2
X59 g203 vdd gnd w226 not1
X54 g154 vdd gnd z223 not1
X244 g378 g383 g390 g396 vdd gnd x41 and4
X18 g34 vdd gnd g151 not1
X126 g229 g186 vdd gnd g288 nand2
X203 g284 vdd gnd z341 not1
X220 g346 g347 g348 vdd gnd x31 and3
X68 g162 w229 vdd gnd y229 nand2
X110 g213 g16 vdd gnd g254 nand2
X53 g203 vdd gnd w223 not1
X92 g203 z242 vdd gnd x242 nand2
X131 g246 g196 vdd gnd g293 nand2
X255 g199 vdd gnd g426 not1
X17 g32 vdd gnd g150 not1
X134 g269 g272 g275 vdd gnd x22 and3
X187 g308 g278 vdd gnd g337 xor2
X48 g174 g177 g180 vdd gnd x13 and3
X6 g10 vdd gnd g127 not1
X212 g329 g300 vdd gnd g347 nand2
X64 g203 g162 vdd gnd g229 xor2
X38 g23 g139 vdd gnd g191 nor2
X109 g213 g12 vdd gnd g253 nand2
X32 g11 g127 vdd gnd g185 nor2
X97 g203 vdd gnd w246 not1
X192 x337 y337 vdd gnd g337 nand2
X75 x232 y232 vdd gnd g232 nand2
X21 g5 g119 vdd gnd g158 nor2
X80 g168 w235 vdd gnd y235 nand2
X8 g14 vdd gnd g131 not1
X3 g4 vdd gnd g122 not1
X198 g281 w339 vdd gnd y339 nand2
X71 g203 vdd gnd w232 not1
X12 g22 vdd gnd g139 not1
X140 g289 vdd gnd g302 not1
X253 g396 g390 g416 vdd gnd g424 nand3
X148 g308 g259 vdd gnd g328 xor2
X123 g246 g195 vdd gnd g281 nand2
X183 g308 z335 vdd gnd x335 nand2
X222 g352 g353 g354 vdd gnd x33 and3
X188 g308 vdd gnd w337 not1
X24 g130 g14 vdd gnd g165 nand2
X151 g308 z328 vdd gnd x328 nand2
X227 g358 g13 vdd gnd g370 nand2
X85 g203 z238 vdd gnd x238 nand2
X171 x331 y331 vdd gnd g331 nand2
X211 g328 g299 vdd gnd g346 nand2
X11 g20 vdd gnd g138 not1
X169 g308 z331 vdd gnd x331 nand2
X191 g278 w337 vdd gnd y337 nand2
X217 g337 g305 vdd gnd g352 nand2
X150 g259 vdd gnd z328 not1
X88 g1 g213 vdd gnd g241 nand2
X250 g408 vdd gnd g417 not1
X235 g245 g334 g369 g6 vdd gnd g378 nand4
X207 g318 g23 vdd gnd g342 nand2
X195 g308 vdd gnd w339 not1
X124 g250 g197 vdd gnd g284 nand2
X178 x333 y333 vdd gnd g333 nand2
X99 g203 z246 vdd gnd x246 nand2
X119 g232 g187 vdd gnd g269 nand2
X45 g36 g151 vdd gnd g198 nor2
X226 g358 g9 vdd gnd g369 nand2
X238 g254 g340 g372 g18 vdd gnd g396 nand4
X231 g358 g29 vdd gnd g374 nand2
X158 g263 w329 vdd gnd y329 nand2
X175 g272 vdd gnd z333 not1
X36 g19 g135 vdd gnd g189 nor2
X104 g203 vdd gnd w250 not1
X199 x339 y339 vdd gnd g339 nand2

.subckt nor2 a b vdd vss z
m01 vdd   a     01    vdd pmos  l=0.12u  w=1.54u  as=0.4081p   ad=0.4081p   ps=3.61u   pd=3.61u
m02 vss   a     z     vss nmos  l=0.12u  w=0.44u  as=0.1166p   ad=0.1166p   ps=1.41u   pd=1.41u
m03 01    b     z     vdd pmos  l=0.12u  w=1.54u  as=0.4081p   ad=0.4081p   ps=3.61u   pd=3.61u
m04 z     b     vss   vss nmos  l=0.12u  w=0.44u  as=0.1166p   ad=0.1166p   ps=1.41u   pd=1.41u
c4  a     vss   0.341f
c3  b     vss   0.433f
c2  z     vss   0.677f
.ends
.subckt and4 a b c d vdd vss z
m01 10    a     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m02 n1    a     vss   vss nmos  l=0.12u  w=0.88u  as=0.2332p   ad=0.2332p   ps=2.29u   pd=2.29u
m03 vdd   b     10    vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m04 sig7  b     n1    vss nmos  l=0.12u  w=0.88u  as=0.2332p   ad=0.2332p   ps=2.29u   pd=2.29u
m05 10    c     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m06 n3    c     sig7  vss nmos  l=0.12u  w=0.88u  as=0.2332p   ad=0.2332p   ps=2.29u   pd=2.29u
m07 vdd   d     10    vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m08 10    d     n3    vss nmos  l=0.12u  w=0.88u  as=0.2332p   ad=0.2332p   ps=2.29u   pd=2.29u
m09 vdd   10    z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m10 vss   10    z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c4  10    vss   0.940f
c5  a     vss   0.674f
c8  b     vss   0.541f
c9  c     vss   0.622f
c10 d     vss   0.791f
c3  z     vss   0.765f
.ends
.subckt not1 a vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m02 vss   a     z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends
.subckt xor2 a b vdd vss z
m01 04    a     vdd   vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m02 04    a     vss   vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
m03 vdd   b     bn    vdd pmos  l=0.12u  w=1.485u as=0.393525p ad=0.393525p ps=3.5u    pd=3.5u
m04 z     b     04    vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
m05 vss   b     bn    vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
m06 bn    04    z     vdd pmos  l=0.12u  w=1.485u as=0.393525p ad=0.393525p ps=3.5u    pd=3.5u
m07 vss   04    09    vss nmos  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
m08 z     bn    04    vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m09 09    bn    z     vss nmos  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
c6  04    vss   0.683f
c4  a     vss   0.590f
c1  bn    vss   0.910f
c3  b     vss   1.149f
c5  z     vss   0.680f
.ends
.subckt and3 a b c vdd vss z
m01 08    a     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m02 n1    a     vss   vss nmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m03 vdd   b     08    vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m04 sig6  b     n1    vss nmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m05 08    c     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m06 08    c     sig6  vss nmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m07 vdd   08    z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m08 vss   08    z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c4  08    vss   1.142f
c5  a     vss   0.539f
c7  b     vss   0.609f
c8  c     vss   0.651f
c3  z     vss   0.745f
.ends
.subckt nand4 a b c d vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m02 vss   a     sig7  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m03 z     b     vdd   vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m04 sig7  b     sig3  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m05 vdd   c     z     vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m06 sig3  c     sig2  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m07 z     d     vdd   vdd pmos  l=0.12u  w=0.935u as=0.247775p ad=0.247775p ps=2.4u    pd=2.4u
m08 sig2  d     z     vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
c9  a     vss   0.610f
c8  b     vss   0.677f
c6  c     vss   0.603f
c5  d     vss   0.638f
c1  z     vss   0.948f
.ends
.subckt nand3 a b c vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m02 vss   a     sig2  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m03 z     b     vdd   vdd pmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m04 sig2  b     sig3  vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m05 vdd   c     z     vdd pmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
m06 sig3  c     z     vss nmos  l=0.12u  w=1.1u   as=0.2915p   ad=0.2915p   ps=2.73u   pd=2.73u
c5  a     vss   0.491f
c6  b     vss   0.400f
c7  c     vss   0.478f
c1  z     vss   0.850f
.ends
.subckt nand2 a b vdd vss z
m01 vdd   a     z     vdd pmos  l=0.12u  w=0.77u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
m02 vss   a     sig3  vss nmos  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
m03 z     b     vdd   vdd pmos  l=0.12u  w=0.77u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
m04 sig3  b     z     vss nmos  l=0.12u  w=0.66u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
c4  a     vss   0.549f
c5  b     vss   0.578f
c1  z     vss   0.609f
.ends
.subckt and2 a b vdd vss z
m01 06    a     vdd   vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m02 n1    a     vss   vss nmos  l=0.12u  w=0.605u as=0.160325p ad=0.160325p ps=1.74u   pd=1.74u
m03 vdd   b     06    vdd pmos  l=0.12u  w=0.715u as=0.189475p ad=0.189475p ps=1.96u   pd=1.96u
m04 06    b     n1    vss nmos  l=0.12u  w=0.605u as=0.160325p ad=0.160325p ps=1.74u   pd=1.74u
m05 vdd   06    z     vdd pmos  l=0.12u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
m06 vss   06    z     vss nmos  l=0.12u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c4  06    vss   0.724f
c5  a     vss   0.663f
c6  b     vss   0.538f
c3  z     vss   0.595f
.ends


* simulation command: 

.tran 1ps 1ns
.print tran  V(g430) V(g426) V(g429) V(g431) V(g428) V(g427) V(g432)
.end
